US04194003
4-Methoxy-naphthoic acid chloride (35 g; prepared by action of phosphorous pentachloride on the acid of m.p. 250° C.) followed by methyl 1-methyl-pyrrole-2-carboxylate (22 g) are dissolved in 1,2-dichloroethane (400 ml). To the stirred solution, at about -20° C., is slowly added anhydrous aluminium chloride (23 g). After one hour, the resulting material is poured over 1 kg crushed ice. The organic phase is decanted off and the aqueous phase is extracted with chloroform (500 ml). The organic solution is then dried and the solvents are evaporated off. The solid residue (28 g) is washed with isopropyl ether (200 ml), to give methyl 1-methyl-4-(4-methoxy-1-naphthoyl)-pyrrole-2-carboxylate, m.p.=162° C., in a yield of 50%.

reactant | 4-Methoxy-naphthoic acid chloride | COC1=CC=C(C2=CC=CC=C12)C(=O)Cl | C12H9ClO2
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methyl 1-methyl-pyrrole-2-carboxylate | 22 g | CN1C(=CC=C1)C(=O)OC | C7H9NO2
reactant | aluminium chloride | 23 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 400 ml | ClCCCl | C2H4Cl2
product | methyl 1-methyl-4-(4-methoxy-1-naphthoyl)-pyrrole-2-carboxylate | yield of 50% | CN1C(=CC(=C1)C(=O)C1=CC=C(C2=CC=CC=C12)OC)C(=O)OC | C19H17NO4
